Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bactrim DS / Levaquin / Vancomycin Hcl / Dilantin Kapseal / 
Keflex / Ciprofloxacin / Baclofen / Detrol / lisinopril / 
oxybutynin / Zosyn / cefepime / pistachio / linezolid / 
azithromycin / fosfomycin
 
Attending: ___
 
Chief Complaint:
Abdominal pain, chills 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ with a PMH of polysubstance use disorder, MVC ___ c/b T12
paraplegia, recurrent sacral/trochanteric decubitus ulcers,
neurogenic bladder, recurrent UTIs, obstructive uropathy/CKD,
ileal conduit urinary diversion c/b L anastomotic stricture
requiring L indwelling PCN (___), ESRD on HD who presents w/
LUQ pain found to have urinary tract infection. 

He presents with L sided chest/abdominal pain that has been
on/off since his last discharge. Unclear history of
provoking/palliating factors, but deep breaths and movement may
make it worse. Denies f/c at home, SOB, cough, other chest pain,
N/V, his typical UTI sx though difficult to tell iso his
complicated history. has been having loose BMs one per day

Of note patient has had multiple recent admissions for urinary
tract infections. Most recently here from ___ with ___ 
urine
culture growing pan-sensitive  E.coli, urine culture ___ growing
VRE. S/p 2 week course of fosfomycin Q72H, last day ___. In the
past has grown MDR pseudomonas (last ___. Was also admitted
___ with urine growing pan-sensitive klebsiella but he
was treated with IV meropenem for 2 weeks.

In the ED:
- Initial vital signs were notable for: 100.5 ___ 17 99%
RA 
- Exam notable for: TTP in L chest wall (reproduces his pain)
without overlying ecchymosis. soft, TTP in LLQ, 1+ ___ worse on 
L
than R (chronic per pt)
- Labs were notable for: WBC of 12.2, Hb 7.6, UA with 12 WBCs 
and
many bacteria.
- Studies performed include: CXR: No acute cardiopulmonary
process. Patient declined CT A/P.
- Patient was given: Meropenem, oxycodone 60mg for pain
- Consults: Case was discussed with ID and he was transitioned 
to
Meropenem 

Vitals on transfer: 98.8 67 183/86 14 98% RA 

Upon arrival to the floor, patient acting paranoid.
Confrontational with staff and refusing medical 
treatment/diagnostic tests. Endorsing auditory hallucinations 
and states that he feels mentally unwell. Initially refusing to 
stay in room, but later returning to room. 

 
Past Medical History:
PAST MEDICAL HISTORY
====================
- T12 paraplegia s/p spinal fusion/rod placement after car
accident ___ c/b neurogenic bladder
- Neurogenic bladder s/p ileal conduct urinary diversion 
(___)
c/b L anastomotic stricture requiring chronic indwelling PCN
___, stent replaced q3months
- Multiple admissions for recurrent UTI/pyelonephritis growing
MDR organisms (E. Coli, K. pneumoniae)
- Recurrent sacral and trochanteric decubitus ulcers s/p
debridement and advancement flaps (most recently ___
- L proximal tibia and fibula fracture ___ 
- Hx R foot cellulitis with R lateral malleolus pressure ulcer
___, right great to patient amputation ___
- Hx R hip osteomyelitis
- H/o c. diff colitis
- Seizure disorder
- Chronic pain
- DJD shoulders/hips
- GERD
- Anxiety
- Hx substance abuse 
- HTN
- Depression 
- Anemia of chronic disease
 
Social History:
___
Family History:
Mother- NHL
Sister- uterine cancer
Father- fungal infection
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
VITALS: 24 HR Data (last updated ___ @ 1637)
    Temp: 99 (Tm 99.9), BP: 182/95 (182-195/85-114), HR: 122
(93-142), RR: 18, O2 sat: 97% (96-99), O2 delivery: Ra  
GEN: Sitting up in wheelchair, moderately anxious. 
NECK: no JVD
CARD: Tachycardic, regular, S1 + S2 present, SEM loudest at apex
and radiating to L. axilla 
RESP: CTAB, no wheezes/crackles, breathing comfortably on RA
ABD: Soft, non-distended, moderate LUQ TTP with guarding
BACK: Left flank PCN in place w/o pain or erythema 
GU: L PCN draining yellow urine, RLQ ostomy in place with dark
yellow urine 
EXT: WWP, trace ___ edema, rotated (baseline per pt)
SKIN: L dorsal foot wrapped in gauze 
NEURO: AOx3, ___ UE strength

DISCHARGE PHYSICAL EXAM: 
=========================
Vitals ___ 1130 Temp: 98.2 PO BP: 145/90 R Sitting HR: 86
RR: 18 O2 sat: 97% O2 delivery: Ra 
GEN: Sitting in wheelchair, cooperative with exam, not agitated.
CARD: Regular rate and rhythm, no murmurs rubs or gallops
RESP: On room air, no difficulty breathing, lungs clear to
auscultation bilaterally, no crackles, wheezing, or
rhonchi.
ABD: Nondistended, slightly tender to palpation in the left 
lower
quadrant, no rebound, no guarding.
GU: L PCN draining yellow urine, RLQ ostomy in place. 
EXT: WWP, no ___ edema
NEURO: AOx3
 
Pertinent Results:
ADMISSION LABS
===============
___ 06:22AM BLOOD WBC-12.2* RBC-2.38* Hgb-7.6* Hct-22.8* 
MCV-96 MCH-31.9 MCHC-33.3 RDW-14.4 RDWSD-49.7* Plt ___
___ 06:22AM BLOOD Neuts-69.8 ___ Monos-7.5 Eos-2.5 
Baso-0.2 Im ___ AbsNeut-8.52* AbsLymp-2.36 AbsMono-0.92* 
AbsEos-0.31 AbsBaso-0.03
___ 06:22AM BLOOD ___ PTT-26.8 ___
___ 06:22AM BLOOD Glucose-115* UreaN-50* Creat-4.7* Na-142 
K-4.4 Cl-105 HCO3-19* AnGap-18
___ 06:22AM BLOOD ALT-10 AST-11 AlkPhos-105 TotBili-0.2
___ 06:22AM BLOOD CK-MB-2 cTropnT-<0.01
___ 06:22AM BLOOD Albumin-4.4 Calcium-8.3* Phos-3.6 Mg-1.6
___ 10:25AM BLOOD Triglyc-315* HDL-44 CHOL/HD-4.3 
LDLcalc-83
___ 06:22AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG
___ 06:22AM BLOOD ASA-NEG Acetmnp-NEG Tricycl-NEG
___ 06:22AM BLOOD Lactate-0.8

INTERVAL LABS
=============
___ 06:20AM BLOOD ALT-28 AST-31 LD(LDH)-177 AlkPhos-117 
TotBili-<0.2
___ 06:22AM BLOOD CK-MB-2 cTropnT-<0.01
___ 06:22AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG
___ 10:25AM BLOOD Triglyc-315* HDL-44 CHOL/HD-4.3 
LDLcalc-83
___ 06:22AM BLOOD ASA-NEG Acetmnp-NEG Tricycl-NEG
___ 03:45PM BLOOD Ethanol-NEG
___ 06:47AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

DISCHARGE LABS
===============
___ 12:00PM BLOOD WBC-8.7 RBC-2.27* Hgb-7.4* Hct-23.0* 
MCV-101* MCH-32.6* MCHC-32.2 RDW-13.7 RDWSD-50.6* Plt ___
___ 12:00PM BLOOD Glucose-133* UreaN-83* Creat-3.7* Na-135 
K-5.2 Cl-99 HCO3-21* AnGap-15
___ 12:00PM BLOOD Calcium-8.1* Phos-5.8* Mg-1.8

IMAGING/STUDIES
=================
___ US 
1. No sonographic explanation for abdominal pain identified.  
Note is made a fluid-filled distended stomach is visualized.  
This is not surprising given that the patient reported recently 
drinking water just before the exam. 
2. Splenic size is within the upper limits of normal.  No 
splenic abscess is seen.
3. Stable mild right-sided hydronephrosis.  Atrophic kidneys 
with echogenic
appearance of the renal cortex bilaterally consistent with 
underlying medical renal disease.

___ (SUPINE ONLY)

1.  No radiographic evidence of small bowel obstruction or 
ileus.
2.  Large stool burden within the colon.

___ ABD & PELVIS W/O CON

1.  No evidence of left upper quadrant pathology.  The spleen is 
normal in
appearance, allowing for the limitations of a noncontrast study.
2.  Large stool burden within the colon. Unremarkable bowel with 
no dilatation or wall thickening.
3.  Mild fullness of the right renal calyces and right ureter in 
a patient
with ileal conduit.

MICROBIOLOGY
==============
_________________________________________________________
___ 3:12 pm URINE      Source: Catheter. 

   URINE CULTURE (Preliminary): 
      GRAM NEGATIVE ROD(S).    >100,000 CFU/mL. 
      GRAM NEGATIVE ROD #2.    >100,000 CFU/mL. 
__________________________________________________________
___ 10:08 am URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ENTEROBACTER CLOACAE COMPLEX.    >100,000 CFU/mL. 
         This organism may develop resistance to third 
generation
         cephalosporins during prolonged therapy. Therefore, 
isolates that
         are initially susceptible may become resistant within 
three to
         four days after initiation of therapy.  For serious 
infections,
         repeat culture and sensitivity testing may therefore be 
warranted
         if third generation cephalosporins were used. 
         FOSFOMYCIN  Susceptibility testing requested per ___. 
___
         ___ ON ___ (___). 
         ZONE SIZE FOR Fosfomycin IS 18MM Zone size determined 
using a
         method that has not been standardized for this 
drug-organism
         combination and for which no CLSI or FDA-approved 
interpretative
         standards exist. Interpretive results for fosfomycin 
exist only
         for E. coli, for which zone sizes of <16 are classified 
as
         non-susceptible. Interpret results with caution.. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROBACTER CLOACAE COMPLEX
                             |   
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    64 I
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S
__________________________________________________________
___ 1:13 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 6:40 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 6:20 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
PATIENT SUMMARY
==================
___ with a PMH of polysubstance use disorder, MVA ___ c/b T12 
paraplegia, recurrent sacral/trochanteric decubitus ulcers, 
neurogenic bladder, recurrent UTIs, obstructive uropathy/CKD, 
ileal conduit urinary diversion c/b L anastomotic stricture 
requiring L indwelling PCN (___), ESRD on HD who presents w/ 
LUQ pain, found to be febrile with leukocytosis and tachycardia, 
initially concerning for UTI.

ACUTE ISSUES
===============
# Leukocytosis
# Fevers
Patient presenting with fevers, leukocytosis and LUQ pain found 
to have bacteria and WBCs on UA. Patient has history of 
recurrent urinary tract infections in setting of ileal conduit 
urinary diversion c/b L anastomotic stricture requiring L 
indwelling PCN (___). His recent urine cultures grew 
pan-sensitive Klebsiella on ___, pan-sensitive E. Coli on ___, 
VRE on ___. He grew MDR pseudomonas in ___. He was most 
recently treated with fosfomycin Q72 hours last dose on ___. He 
was planning to follow up with ID to discuss suppressive 
therapy, but he did not make it to appointment. Case discussed 
with ID in ED and they recommended Meropenem given multiple 
medication allergies and history of resistant infections in the 
past. Urine culture with colonic bacteria (sample likely taken 
from ostomy). Discussed revision of L ureteral stenosis w/ 
urology as frequency of UTIs has increased; however, patient 
does not want to pursue any surgical management, therefore 
urology signed off. ID consulted and did not feel picture was 
c/w UTI. Meropenem was stopped and patient watched off ABx. 
Leukocytosis and fevers resolved, but patient again became 
febrile and developed leukocytosis on ___, this time with 127 
WBC in urine that also grew enterobacter cloacae. Patient was 
treated with fosfomycin, and then was started on fosfomycin 
prophylactic treatment on ___. 

# Bacteruria
Patient chronically colonized, likely due to complex renal 
anatomy of ileal conduit and PCN. Patient was started on 
fosfomycin prophylaxis this hospitalization, and asymptomatic 
bacteruria does not require treatment. 

# Paranoia, hallucinations, delusions 
Patient endorsing auditory hallucinations. Feeling scared and 
unsafe. Initially believing that he was raped while in the 
hospital, but later acknowledging that this was a delusion. 
Intermittently refusing diagnostic and therapeutic 
interventions. Was initially verbally threatening staff with 
violence, but has since become more calm and cooperative, 
although did have continued issues with behavioral disturbances, 
yelling, and cursing.

Urine tox positive for cocaine x2 (although patient denies use). 
Searched room given cocaine positivity and threats of violence 
to staff, which was very upsetting to the patient. On room 
search, found some home medications, but no illicit substances 
or weapons. In the week after the room search, patient 
voluntarily told his nurse that he had found some of his home 
oxycodone in his sock that he had forgotten about. This was 
placed in the lock box, and due to concern that the patient was 
pocketing his doses of oxycodone while in house, this was 
switched to a liquid form. 

Patient continued to speak with pressured speech and was 
paranoid, at one point claiming to have been raped by staff; 
however, later noting that this was "all in my head" and that 
his voices had told him this. Patient was treated with 
olanzapine, which was titrated to 10 mg PO BID with 5 mg PRN for 
breakthrough agitation. On discharge he still reported hearing 
voices, however he "realizes these are fake" and thinks that 
they have decreased since he started the olanzapine. He was 
discharged with home ___ psych nurses as well as olanzapine PO 
BID, with the plan to eventually taper as an outpatient at the 
discretion of outpatient psychiatry. 

# LUQ Pain
# Nausea
# Constipation
Patient reporting LUQ pain on presentation. He declined a CT A/P 
in the ED. Pain began after a fall about a month ago, so may be 
musculoskeltal in origin. Initial abdominal US was unremarkable: 
did not show any evidence of splenic or hepatobiliary pathology. 
KUB ___ without evidence of obstruction but did show large 
stool burden. Patient eventually underwent CT, which again 
showed large stool burden Abdominal pain and tenderness may 
therefore be secondary to constipation. Patient was offered 
several medications for constipation, but mostly refused. He 
states that he refuses bowel regimen because after the car 
accident he could no longer feel below the waist, and is 
incredibly embarrassed by frequent accidents. He told nursing 
that he did manual disempaction every morning. This was not 
witnessed by nursing or anyone on staff. He did eventually have 
a few large bowel movements that were witnessed by nursing, with 
slight resolution of his abdominal pain, and nausea. He 
attributes the bowel movements to the liquid form of oxycodone, 
and is very resistant to taking the liquid oxycodone. He was 
counseled about constipating effect of opiates and need for 
bowel regimen, and he was encouraged on discharge to make sure 
he has a bowel movement every day. 

CHRONIC ISSUES:
========================
# Sinus Tachycardia, resolved
Patient with HR of 130 on presentation. Serum tox positive for 
cocaine. ___ also represent withdrawal, but patient and mother 
denying alcohol use and tox negative for benzodiazepines. 
Resolved to heart rates in the ___ on discharge.

# Hypertension. 
Very hypertensive on presentation, likely in setting of 
medication non-adherence. Continued amlodipine 10 mg QD and 
clonidine 0.2 mg TID, with improvements in his blood pressure to 
140s/80s. 

# Chronic Pain: 
Chronic back pain. On home percocet ___ tab Q4H:PRN and 
oxycodone 60 mg Q8H:PRN (recently prescribed by ___ 
CHA). Continued Tylenol ___ Q8hrs, Oxycodone 60mg Q8hrs, 
Percocet 10mg, q4hrs prn, and tizanadine 4 mg BID. However, due 
to concern the patient was subverting his oxycodone in setting 
of finding multiple pills in his sock this hospitalization, he 
was switched from the pill form of oxycodone to liquid form, to 
impede the ability to pocket pain meds. However as noted above, 
the patient made nursing aware of the pain medications in his 
sock and states that he kept them there because he has housing 
insecurity and needed to keep them safe. 

# Allergies: 
Pt has multiple antibiotic allergies that limit treatment of 
infections. Per pt he gets hives to all antibiotics listed. 
Unclear which allergies are true. Patient has outpatient allergy 
appointment to evaluate antibiotic allergies. Continued on 
loratadine 10 mg and flonase.

# Normocytic Anemia: Baseline Hb ___.

# ESRD: 
# Hyperkalemia
Started on HD ___. Nephrologist is Dr. ___. Pt 
gets HD TThSa. Received HD session in ED, as well as throughout 
his hospitalization. He was continued on nephrocaps 1 QD and 
sevelamer 800 mg TID. 

# Insomnia: Continued on zolpidem 10 mg QHS

# Nutrition: Continued on calcium, vitamin D

# Anemia: Continued ferrous sulfate 325 mg QD

# Seizure Disorder: Continue on keppra 1000 mg QD, 500 mg TThSa 
w/ HD

# GERD: Continue on omeprazole 40 mg QD, which was increased to 
BID iso post-prandial nausea. 

>30 minutes spent on patient care and coordination on day of 
discharge.

TRANSITIONAL ISSUES
===================
***NEW Rx of Olanzapine due to auditory hallucinations, plan for 
eventual taper at the discretion of outpatient psychiatry team 
***
[] Patient discharged to home with mother with psychiatry ___ 
arranged. Likely will benefit from outpatient psych services, 
recommend setting up with ___ where he has primary care 
to plan for eventual safe olanzapine taper. 
[] Mr ___ was started on prophylactic fosfomycin to prevent 
UTIs this hospitalization, and has follow up with ID ___.
[] He has multiple listed allergies to antibiotics which are of 
unclear severity. He has follow up with allergy team ___ to 
clarify true allergies. 
[] Patient with intermittent nausea and abdominal pain thought 
due to constipation from high doses of narcotics. Please ensure 
patient is having daily bowel movements. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ascorbic Acid ___ mg PO DAILY 
2. Bisacodyl 10 mg PO/PR DAILY:PRN Constipation - Second Line 
3. CloNIDine 0.2 mg PO TID 
4. Loratadine 10 mg PO DAILY 
5. Nephrocaps 1 CAP PO DAILY 
6. Omeprazole 40 mg PO DAILY 
7. OxyCODONE--Acetaminophen (5mg-325mg) 2 TAB PO Q4H:PRN Pain - 
Mild 
8. sevelamer CARBONATE 800 mg PO TID W/MEALS 
9. Tizanidine 4 mg PO BID 
10. Zolpidem Tartrate 10 mg PO QHS 
11. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 mg 
calcium- 200 unit oral QD 
12. Ferrous Sulfate 325 mg PO DAILY 
13. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
14. ___ (alprostadil) 1,000 mcg urethral unknown 
15. amLODIPine 10 mg PO DAILY 
16. LevETIRAcetam 500 mg PO Q12H 
17. LevETIRAcetam 500 mg PO 3X/WEEK (___) 
18. OxyCODONE (Immediate Release) 60 mg PO Q8H:PRN Pain - 
Moderate 

 
Discharge Medications:
1.  Fosfomycin Tromethamine 3 g PO 1X/WEEK (WE) 
Dissolve in ___ oz (90-120 mL) water and take immediately 
RX *fosfomycin tromethamine [Monurol] 3 gram 1 packet(s) by 
mouth once weekly on ___ Disp #*4 Packet Refills:*0 
2.  OLANZapine 10 mg PO BID 
RX *olanzapine 10 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
3.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram/dose 17 g by mouth daily 
PRN Refills:*0 
4.  Ramelteon 8 mg PO QHS 
RX *ramelteon [Rozerem] 8 mg 1 tablet(s) by mouth at bedtime 
Disp #*30 Tablet Refills:*0 
5.  Senna 17.2 mg PO BID 
RX *sennosides [senna] 8.6 mg 2 tablet by mouth BID PRN Disp 
#*120 Tablet Refills:*0 
6.  amLODIPine 10 mg PO DAILY  
7.  Ascorbic Acid ___ mg PO DAILY  
8.  Bisacodyl 10 mg PO/PR DAILY:PRN Constipation - Second Line  
9.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 mg 
calcium- 200 unit oral QD  
10.  CloNIDine 0.2 mg PO TID  
11.  Ferrous Sulfate 325 mg PO DAILY  
12.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
13.  LevETIRAcetam 500 mg PO Q12H  
14.  LevETIRAcetam 500 mg PO 3X/WEEK (___) on dialysis days 

after dialysis  
15.  Loratadine 10 mg PO DAILY  
16.  ___ (alprostadil) 1,000 mcg urethral unknown  
17.  Nephrocaps 1 CAP PO DAILY  
18.  Omeprazole 40 mg PO DAILY  
19.  OxyCODONE (Immediate Release) 60 mg PO Q8H:PRN Pain - 
Moderate  
20.  OxyCODONE--Acetaminophen (5mg-325mg) 2 TAB PO Q4H:PRN Pain 
- Mild  
21.  sevelamer CARBONATE 800 mg PO TID W/MEALS  
22.  Tizanidine 4 mg PO BID  
23.  Zolpidem Tartrate 10 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY
=======
- Psychotic disorder 
- Polysubstance use disorder 

SECONDARY
=========
- End stage renal disease 
- neurogenic bladder
- ileal conduit urinary diversion c/b L anastomotic stricture 
requiring indwelling nephrostomy tube 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair but independent with wheelchair

 
Discharge Instructions:
Dear Mr. ___,

WHY WAS I HOSPITALIZED?
==========================
You came into the hospital because you were having abdominal 
pain and fevers. 

WHAT HAPPENED TO ME IN THE HOSPITAL?
=================================
- We initially thought that you may have been having a urinary 
tract infection and you received an antibiotic. However, it did 
not appear that you had a urinary tract infection, so 
antibiotics were stopped. 
- You were found to be hearing voices and had racing thoughts. 
You received medication for this. 
- Later, you did have a urinary tract infection, which was 
treated with oral antibiotics. 
- You received hemodialysis while you were in the hospital. 

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?
=========================================
- Take all of your medications as prescribed.
- Attend all scheduled clinic appointments.

It was a pleasure taking care of you, 
Your ___ Care Team

 
Followup Instructions:
___